US08957064B2
6-(2,6-difluorophenyl)-5-(4-{3-[5-(pyridine-2-yl)-1H-[1,2,4]triazole-3-yl]-azetidine-1-ylmethyl}-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid methyl ester
The compound is prepared in analogy to example 27.0. 348.5 mg 2-(5-Azetidine-3-yl-[1,2,4]triazole-3-yl)-pyridine×2HCl are reacted with 500 mg (1.27 mmol) 6-(2,6-difluorophenyl)-5-(4-formylphenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid methyl ester. After the usual work-up and purification 254 mg (32.9%) of the title compound are obtained.

reactant | 2-(5-Azetidine-3-yl-[1,2,4]triazole-3-yl)-pyridine | 348.5 mg | N1CC(C1)C1=NC(=NN1)C1=NC=CC=C1 | C10H11N5
reactant | 6-(2,6-difluorophenyl)-5-(4-formylphenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid methyl ester | 1.27 mmol, 500 mg | COC(=O)C=1C=NN2C1N=C(C(=C2)C2=C(C=CC=C2F)F)C2=CC=C(C=C2)C=O | C21H13F2N3O3
product | 6-(2,6-difluorophenyl)-5-(4-{3-[5-(pyridine-2-yl)-1H-[1,2,4]triazole-3-yl]-azetidine-1-ylmethyl}-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid methyl ester | COC(=O)C=1C=NN2C1N=C(C(=C2)C2=C(C=CC=C2F)F)C2=CC=C(C=C2)CN2CC(C2)C2=NNC(=N2)C2=NC=CC=C2 | C31H24F2N8O2
